US08193236B2
2-(6-Dimethylaminomethyl-2-methyl-indolizin-3-yl)-acetamide
(6-Dimethylaminomethyl-2-methyl-indolizin-3-yl)-acetic acid tert-butyl ester (122 mg, 0.40 mmol) is dissolved in CH2Cl2 (10 ml) containing 5% of trifluoroacetic acid. The mixture is stirred for 14 hours at room temperature and then concentrated in vacuo. The residue is azeotroped twice with toluene, dissolved in N,N-dimethylformamide (2.0 ml) and treated with carbonyl diimidazole (76 mg, 0.44 mmol, 1.1 equiv). After 1 hour at room temperature, the volatiles are removed in vacuo, and the activated acid is taken up in concentrated aqueous ammonia (10 ml). The mixture is stirred for 30 minutes at room temperature and then concentrated in vacuo. The residue is purified via flash chromatography (CH2Cl2/MeOH 7:1) to afford the title compound (90 mg, 91%). 1H NMR (400 MHz, d6-DMSO): δ=7.31 (s, 1H), 7.27 (s, 1H), 6.75 (s, 1H), 6.61 (dd, J=9.3/1.5 Hz, 1H), 4.06 (s, 2H), 3.38 (s, 2H), 2.66 (s, 6H), 2.13 (s, 3H). MS (ES+): 246 (M+H)+.

reactant | (6-Dimethylaminomethyl-2-methyl-indolizin-3-yl)-acetic acid tert-butyl ester | 0.40 mmol, 122 mg | C(C)(C)(C)OC(CC1=C(C=C2C=CC(=CN12)CN(C)C)C)=O | C18H26N2O2
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | carbonyl diimidazole | 0.44 mmol, 76 mg, 1.1 equiv | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | 2-(6-Dimethylaminomethyl-2-methyl-indolizin-3-yl)-acetamide | 90 mg, 91% | CN(C)CC1=CN2C(=C(C=C2C=C1)C)CC(=O)N | C14H19N3O
